US08076324B2
3-(3-Methylsulfanylphenyl)-1H-[1,2,4]triazole
8 g of N-[1-dimethylaminomethylidene]-3-methylsulfanyl-benzamide were dissolved in 80 ml of glacial acetic acid. 2 ml of hydrazine hydrate were added and the mixture was heated to 90° C. for 2 h. The solvent was removed in vacuo. The crude product was purified by flash chromatography (300 g of silica gel; DCM/MOH, gradient from 100:0 to 95:5). 4.5 g of the title compound were obtained as an oil.

reactant | N-[1-dimethylaminomethylidene]-3-methylsulfanyl-benzamide | 8 g | CN(C=NC(C1=CC(=CC=C1)SC)=O)C | C11H14N2OS
reactant | hydrazine hydrate | 2 ml | O.NN
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 3-(3-Methylsulfanylphenyl)-1H-[1,2,4]triazole | 4.5 g | CSC=1C=C(C=CC1)C1=NNC=N1 | C9H9N3S
